spice
* SPICE Netlist

V1 2 3 DC Vin    ; Voltage source connected between nodes 2 and 3
R1 2 0 1000      ; Resistor R1 connected between nodes 2 and 0 (ground)
O1 2 0 2         ; Op-Amp with inverting input, non-inverting input, and output all at node 2

.END